US08703793B2
4-Cyclopentyl-2-(1-methoxy-ethyl)-7,7-dimethyl-3-(4-trifluoromethyl-benzoyl)-4,6,7,8-tetrahydro-1H-quinolin-5-one
8.0 g 3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one are dissolved in 150 ml of diisopropylether, 2.2 ml trifluoroacetic acid and 4.1 g 5,5-dimethyl-cyclohexane-1,3-dione are successively added and the mixture is stirred for 10 minutes at room temperature. Then 3.75 ml cyclopentanecarbaldehyde are added and the mixture is heated for 15 hours to reflux at a dean-stark trap. After cooling to room temperature the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethylacetate 95:5 to 60:40). The product thus obtained is triturated with diisopropylether.

reactant | 3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one | 8.0 g | NC(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C(C)OC | C13H14F3NO2
reactant | trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5,5-dimethyl-cyclohexane-1,3-dione | 4.1 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | cyclopentanecarbaldehyde | 3.75 ml | C1(CCCC1)C=O | C6H10O
solvent | diisopropylether | 150 ml | C(C)(C)OC(C)C | C6H14O
product | 4-Cyclopentyl-2-(1-methoxy-ethyl)-7,7-dimethyl-3-(4-trifluoromethyl-benzoyl)-4,6,7,8-tetrahydro-1H-quinolin-5-one | C1(CCCC1)C1C(=C(NC=2CC(CC(C12)=O)(C)C)C(C)OC)C(C1=CC=C(C=C1)C(F)(F)F)=O | C27H32F3NO3
